US04271051
63.1 g of adipic acid
By addition of 274.5 g of trimellitic acid anhydride and further heating, condensation was continued to an acid number of 120. After cooling to 120° C., the product was reacted under stirring with 168 g of glycide to an acid number of 23.4.

reactant | trimellitic acid anhydride | 274.5 g | C1=CC2=C(C=C1C(=O)O)C(=O)OC2=O | C9H4O5
reactant | glycide | 168 g | C1C(O1)CO | C3H6O2
product | adipic acid | C(CCCCC(=O)O)(=O)O | C6H10O4
